US09120804B2
Reaction of N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide with 8-iodo-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine analogously to general procedure 1 gives N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-phenyl]-methanesulfonamide which is reacted with 4-(4-chloro-phenyl)-morpholine to give the title compound as a solid.

reactant | N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | 8-iodo-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | IC=1C=2N(C=CN1)N=C(N2)N | C5H4IN5
product | N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-phenyl]-methanesulfonamide | NC1=NN2C(C(=NC=C2)C2=CC=C(C=C2)NS(=O)(=O)C)=N1 | C12H12N6O2S
